US05147886
To 5.00 g of 2-methylthio-4'-(trifluoromethyl)acetophenone dissolved in 50 ml of tetrahydrofuran was added under ice-cooling 0.855 g of a 60% aqueous solution of sodium hydride, and the mixture was reacted at room temperature with stirring until no bubbles were produced. After an addition of 3.34 g of methyl iodide, the mixture was stirred at room temperature for a further 2 hours. The resultant reaction mixture was poured into ice-cooled water and extracted with dichloromethane. The organic layer was washed with water and dried over anhydrous magnesium sulfate. After evaporation of the solvent, the residue was purified by silica gel column chromatography- using n-hexane to obtain 2.16 g of an oily product of 2-methylthio-4'-(trifluoromethyl)propiophenone (yield: 40.8%).

reactant | 2-methylthio-4'-(trifluoromethyl)acetophenone | 5.00 g | CSCC(=O)C1=CC=C(C=C1)C(F)(F)F | C10H9F3OS
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 3.34 g | CI | CH3I
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-methylthio-4'-(trifluoromethyl)propiophenone | yield: 40.8% | CSC(C(=O)C1=CC=C(C=C1)C(F)(F)F)C | C11H11F3OS
